### ISSUE TITLE
`induct_unfolding` fails to unfold some `match` expressions

### ISSUE THREAD

**Issue by Rob23oba** [leanprover/lean4#8195]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `induct_unfolding` and `fun_cases_unfolding` constructions sometimes splits match cases without unfolding.

### Context

This occurred while working on tree maps, in particular trying to use unfolding induction on `Std.DTreeMap.Internal.Impl.explore`.

### Steps to Reproduce

```lean
def test (l : List Nat) : Nat :=
  match l with
  | [] => 0
  | x :: l =>
    match x == 3 with
    | false => test l
    | true => test l

#print test.induct_unfolding
```
The generated induction looks like this:
```lean
test.induct_unfolding (motive : List Nat → Nat → Prop) (case1 : motive [] 0)
  (case2 :
    ∀ (x : Nat) (l : List Nat),
      (x == 3) = false →
        motive l (test l) →
          motive (x :: l)
            (match x == 3 with
            | false => test l
            | true => test l))
  (case3 :
    ∀ (x : Nat) (l : List Nat),
      (x == 3) = true →
        motive l (test l) →
          motive (x :: l)
            (match x == 3 with
            | false => test l
            | true => test l))
  (l : List Nat) : motive l (test l)
```
You can see that the `match x == 3` has been split into cases 2 and 3, however, the match expression was not reduced. The expected behavior would've been something like:
```lean
test.induct_unfolding2 (motive : List Nat → Nat → Prop) (case1 : motive [] 0)
  (case2 : ∀ (x : Nat) (l : List Nat), (x == 3) = false → motive l (test l) → motive (x :: l) (test l))
  (case3 : ∀ (x : Nat) (l : List Nat), (x == 3) = true → motive l (test l) → motive (x :: l) (test l))
  (l : List Nat) : motive l (test l)
```
where the `match x == 3` has been reduced into its cases, here `test l`.
Note: The same problem occurs with `fun_cases_unfolding`. Writing `test` using an if-then-else instead causes the issue to disappear.

### Versions

Lean 4.20.0-nightly-2025-05-01

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks for the report! I'm not entirely surprised, rewriting matches is hairy. At least the principle isn't wrong per se, and a suitable `simp` will clean up the goal, will it?

Anyways, thanks for the test cases and keep em coming.

**Comment by nomeata** [comment]
> I imagine the way you could make splitting work is by using whatever split is doing 

I was hoping I was doing that :-)

**Comment by Rob23oba** [comment]
I'm not sure whether this should really be reported as a bug but:
```
def aaffcadvr {β : Nat → Sort _} (f : (n : Nat) → β n) : β 24 :=
  letFun 24 (fun n => f n)

/--
error: Failed to realize constant aaffcadvr.fun_cases_unfolding:
  Cannot derive functional cases principle (please report this issue)
  
    application type mismatch
      motive f (f n)
    argument
      f n
    has type
      β n : Sort u_1
    but is expected to have type
      β 24 : Sort u_1
---
error: unknown constant 'aaffcadvr.fun_cases_unfolding'
---
error: constructed functional cases principle is not type correct:
  fun motive case1 {β} f =>
    Eq.mpr (congrArg (motive f) (aaffcadvr.eq_def f))
      (let_fun n := 24;
      Eq.mpr (Eq.refl (motive f (f n))) (case1 f n))

-/
#guard_msgs in
#print aaffcadvr.fun_cases_unfolding
```

**Comment by nomeata** [comment]
Yes, definitely a (separate) bug. The code should at least recognize if there is a case it can’t handle.

**Comment by Rob23oba** [comment]
One idea I had was a "match cases" lemma, so something like:
```lean
def myTest (x : List α) : Nat := by
  match h : x with
  | a :: dc => sorry
  | _ => sorry

theorem myTest.match_1.cases {α : Type u}
    (motive : (x : List α) → Sort v)
    {motive' : (x : List α) → motive x → Prop}
    (x : List α) :
    (h_1 : (a : α) → (dc : List α) → x = a :: dc → motive (a :: dc)) →
    (h_2 : (x' : List α) → x = x' → motive x') →
    (case1 : (a : α) → (dc : List α) → (h : x = a :: dc) → motive' (a :: dc) (h_1 a dc h)) →
    (case2 : (x' : List α) → (∀ (a : α) (dc : List α), x = a :: dc → False) → (h : x = x') → motive' x' (h_2 x' h)) →
    motive' x (teest2.match_1 motive x h_1 h_2) := by
  refine teest2.match_1.splitter _ x ?_ ?_
  · intro a dc h h_1 h_2 case1 case2
    refine Eq.substr (teest2.match_1.eq_1 motive a dc h_1 h_2) ?_
    apply case1
  · intro x hx! h h_1 h_2 case1 case2
    refine Eq.substr (teest2.match_1.eq_2 motive x h_1 h_2 hx!) ?_
    apply case2
    exact hx!
```
This comes with a problem though which is, that in practice, the motive may not depend on anything but the function application (example where it *does* work is `iteInduction`), `motive'` here depends on `x` as well which causes problems because then suddenly the body changes type within the cases. This is somewhat to be expected and comes from the fact that sometimes it's simply impossible to reliably rewrite without introducing a cast (exactly then when the motive / return type of `match` depends on its parameters).
Thankfully, for the case where the motive *is* fixed, this is easily avoidable:
```lean
theorem teest2.match_1.cases {α : Type u} {β : Sort v}
    {motive : β → Prop} (x : List α) :
    (h_1 : (a : α) → (dc : List α) → x = a :: dc → β) →
    (h_2 : (x' : List α) → x = x' → β) →
    (case1 : (a : α) → (dc : List α) → (h : x = a :: dc) → motive (h_1 a dc h)) →
    (case2 : (x' : List α) → (∀ (a : α) (dc : List α), x = a :: dc → False) → (h : x = x') → motive (h_2 x' h)) →
    motive (teest2.match_1 (fun _ => β) x h_1 h_2) := by
  refine teest2.match_1.splitter _ x ?_ ?_
  · intro a dc h h_1 h_2 case1 case2
    refine Eq.substr (teest2.match_1.eq_1 _ a dc h_1 h_2) ?_
    apply case1
  · intro x hx! h h_1 h_2 case1 case2
    refine Eq.substr (teest2.match_1.eq_2 (fun _ => β) x h_1 h_2 hx!) ?_
    apply case2
    exact hx!
```
This now actually works as a usable lemma to split with (note: we might not need to generate such a lemma but instead maybe just use this general shape (using `match_1.splitter` in combination with `Eq.substr` and `match_1.eq_n`)).

**Comment by Rob23oba** [comment]
Oops that was not my intention

**Comment by nomeata** [comment]
That looks a bit like a functional cases theorem with unfolding for the match statement, doesn't it?

It's somewhat natural that such a thing would be a good, compositional building block for building unfolding theorems for functions using match statements.

**Comment by nomeata** [comment]
> This comes with a problem though which is, that in practice, the motive must not depend on anything but the function application

Your first `theorem myTest.match_1.cases` seems to pretty close to what what `myTest.fun_cases_unfolding` should look like, though. So it seems that if we can pull off the whole `.fun_cases_unfolding` trick, then this is what we need, isn’t it?

Where exactly do you see a problem with that theorem?

**Comment by nomeata** [comment]
I wonder if we can have more general rewriting equations for the match that include the rewriting of the match discriminant? But (as you said above) that doesn't work easily without a cast:

```
theorem myTest.match_1.gen_eq_1 {α : Type u}
  (motive : (x : List α) → Sort v)
  (x : List α)
  (h_1 : (a : α) → (dc : List α) → x = a :: dc → motive (a :: dc))
  (h_2 : (x' : List α) → x = x' → motive x')
  (a : α) (dc : List α) (h : x = a :: dc)
  : myTest.match_1 motive x h_1 h_2 = h ▸ h_1 a dc h := by
  subst h; rfl
```

**Comment by Rob23oba** [comment]
I'm not sure how much value there is in such a thing, the regular equation lemmas can be generalized without too much effort to these ones (pretty sure it's mostly just one `Eq.rec` application).

**Comment by Rob23oba** [comment]
> Where exactly do you see a problem with that theorem?

You're right, there is no problem, the second theorem is the same thing as the first where `motive` and `motive'` are non-dependent. I guess the second one would be more like what'd be used in practice though..?

**Comment by Rob23oba** [comment]
I think most `match`es in the wild are non-dependent, i.e. their return type is constant (unless you're looking at `match` proofs where it's maybe the other way round -> more dependent than non-dependent).

**Comment by nomeata** [comment]
> I'm not sure how much value there is in such a thing, the regular equation lemmas can be generalized without too much effort to these ones (pretty sure it's mostly just one Eq.rec application).

Right, see my edit (didn’t see your message in time, traveling on a train in Germany…)

So maybe the way to go is

* generate generalized rewriting equations for matchers. Either only for non-dependent matches, or put them in `HEq` if we can.
* in `rwMatcher` in `FunInd`, use these to rewrite. We know which branch we are in, the LHS should be the whole match, and we may even be able to explicitly instantiate the theorems with all parameters (pattern variables, discr equalities, overlap assumptions), if we manage the bookkeeping. Using `HEq.subst` this might even work if we generate `HEq`s.

**Comment by Rob23oba** [comment]
A few questions: How and when does splitting and rewriting occur in the current algorithm? And how are top-level matches (on parameters) handled in comparison to deeper matches?

**Comment by nomeata** [comment]
The current FunInd algorithm is explaind in the module docstring at https://github.com/leanprover/lean4/blob/master/src/Lean/Meta/Tactic/FunInd.lean.

The relevant step is step 3:

---

3. The first phase, transformation `T1[body]` (implemented in `buildInductionBody`)
   mirrors the branching structure of `foo`, i.e. replicates `dite` and some matcher applications,
   while adjusting their motive. It also unfolds calls to `oldIH` and collects induction hypotheses
   in conditions (see below).

   In particular, when translating a `match` it is prepared to recognize the idiom
   as introduced by `mkFix` via `Lean.Meta.MatcherApp.addArg?`, which refines the type of `oldIH`
   throughout the match. The transformation will replace `oldIH` with `newIH` here.
   ```
        T[(match (motive := fun oldIH => …) y with | … => fun oldIH' => body) oldIH]
    ==> (match (motive := fun newIH => …) y with | … => fun newIH' => T[body]) newIH
   ```

   In addition, the information gathered from the match is preserved, so that when performing the
   proof by induction, the user can reliably enter the right case. To achieve this

   * the matcher is replaced by its splitter, which brings extra assumptions into scope when
     patterns are overlapping (using `matcherApp.transform (useSplitter := true)`)
   * simple discriminants that are mentioned in the goal (i.e plain parameters) are instantiated
     in the goal.
   * for discriminants that are not instantiated that way, equalities connecting the discriminant
     to the instantiation are added (just as if the user wrote `match h : x with …`)
   * also, simple discriminants (`FVars`) are remembered as `toClear`, as they are unlikely to
     provide useful context, and are redundant given the context that comes from the pattern match.

---

Note that `body` here is the body of the funciton’s actual definition, e.g. the thing passed to `WellFounded.fix`. Hence the extra `oldIH`.

This is for `fun_cases`/`induct`. In the unfolding variant the only change is that the new motive mentions the function’s rhs (as written by the user, not the internal definition) and we want to update that type as we go.

**Comment by Rob23oba** [comment]
I'm just going through the code (of `deriveCases`) myself and (if I didn't miss anything) it seems like `buildInductionBody` doesn't get to know whether we're in unfolding cases or not..? Also it always runs `withRewrittenMotiveArg`, even when we're not in unfolding mode..? Granted, it shouldn't do anything because these would then be fvars but that feels a bit hacky, no?

**Comment by nomeata** [comment]
Yes, this hackiness is mentioned in the module docstring, I believe, but yes, it is somewhat hacky. But note that unless we manage to make the rewriting 100% reliable, then it needs to be failing gracefully anyway later on, so 🤷🏻

**Comment by nomeata** [comment]
(That said, I do appreciate your interest and comments here. That module is a big beast that not many have looked at so far, and a critical reading doesn't hurt.)

**Comment by nomeata** [comment]
Working manually through your example, defining the HEq equational lemmas works, and in that `deptest` example, we can use them through `eq_of_heq`, since the actual `motive` of the match is non-dependent. Not surprising so far.

<details>

```lean

opaque someFunction (x : Nat) (h : (x == 3) = false) : Nat
opaque someOtherFunction (x : Nat) (h : (x == 3) = true) : Nat

def deptest (l : List Nat) : Nat :=
  match l with
  | [] => 0
  | x :: l =>
    match h : x == 3 with
    | false => deptest l + someFunction x h
    | true => deptest l + someOtherFunction x h

theorem deptest.match_1.heq_1
  (motive : Bool → Sort v)
  (x : Bool)
  (h_1 : x = false → motive false)
  (h_2 : x = true → motive true)
  (h : x = false)
  : HEq (deptest.match_1 motive x h_1 h_2) (h_1 h) := by
  subst x
  apply heq_of_eq
  apply deptest.match_1.eq_1 motive h_1 h_2

theorem deptest.match_1.heq_2
  (motive : Bool → Sort v)
  (x : Bool)
  (h_1 : x = false → motive false)
  (h_2 : x = true → motive true)
  (h : x = true)
  : HEq (deptest.match_1 motive x h_1 h_2) (h_2 h) := by
  subst x
  apply heq_of_eq
  apply deptest.match_1.eq_2 motive h_1 h_2

theorem deptest.induct_unfolding_good
  (motive : List Nat → Nat → Prop) (case1 : motive [] 0)
  (case2 :
    ∀ (x : Nat) (l : List Nat),
      (h : (x == 3) = false) →
        motive l (deptest l) →
          motive (x :: l) (deptest l + someFunction x h))
  (case3 :
    ∀ (x : Nat) (l : List Nat),
      (h : (x == 3) = true) →
        motive l (deptest l) →
          motive (x :: l)
            (deptest l + someOtherFunction x h))
  (l : List Nat) : motive l (deptest l) := by
  unfold deptest
  split
  next => exact case1
  next _ x l =>
    refine deptest.match_1.splitter (motive := fun _ => motive (x :: l) _) (x == 3) (fun h => ?neg) (fun h => ?pos)
    case neg =>
      dsimp -- beta-redex the motive lambda
      have := deptest.match_1.heq_1 (motive := fun _ => Nat) _ (fun h => deptest l + someFunction x h) (fun h => deptest l + someOtherFunction x h) h
      refine (eq_of_heq this).substr (p := motive (x :: l)) ?_
      apply case2
      apply deptest.induct_unfolding_good motive case1 case2 case3
    next h =>
      dsimp -- beta-redex the motive lambda
      have := deptest.match_1.heq_2 (motive := fun _ => Nat) _ (fun h => deptest l + someFunction x h) (fun h => deptest l + someOtherFunction x h) h
      refine (eq_of_heq this).substr (p := motive (x :: l)) ?_
      apply case3
      apply deptest.induct_unfolding_good motive case1 case2 case3
```

</details>

What would be an example of a `match` in tail position that has a non-dependent `motive`, and a complex scrutinee, and maybe even an `h` annotation?

(I’m wary of this explosion of possibilities and corner cases here. I hope in the end there is still one rather straight-forward way to make progress, and not separate ways for dependent/non-dependent/with-equations.)

**Comment by nomeata** [comment]
Here is an example, but it’s very artificial, and it takes sublte type annotations to make that go through the elaborator. Unclear how relevant it is.

Also, trying to spell out the type of `fun_cases_unfolding_good`, it seems I cannot do that without introducing casts to the unfolding after all.

<details>

```lean
def depTestOddType (l : List Nat) :
    match l with
    | [] => Unit
    | x :: _ =>
      if x == 3 then
        Unit
      else
        Nat
  :=
  match l with
  | [] => ()
  | x :: _ =>
    (match h : x == 3 with
    | false => someFunction x h
    | true => () : if x == 3 then Unit else Nat)

theorem depTestOddType.fun_cases_unfolding_good
  (motive :
    (l : List Nat) →
      (match l with
        | [] => Unit
        | x :: tail => if (x == 3) = true then Unit else Nat) →
        Prop)
  (case1 : motive [] ())
  (case2 :
    ∀ (x : Nat) (l : List Nat),
      (h : (x == 3) = false) →
        motive (x :: l)
          (if_neg (ne_true_of_eq_false h) ▸ someFunction x h : if (x == 3) = true then Unit else Nat))
  (case3 :
    ∀ (x : Nat) (l : List Nat),
      (h : (x == 3) = true) →
        motive (x :: l)
          (if_pos h ▸ () : if (x == 3) = true then Unit else Nat))
  (l : List Nat) : motive l (depTestOddType l) := sorry
```

</details>

Maybe the way to go is:

* Define generalized rewriting lemmas. Use HEq, because in general there can be dependencies on the targets.
* In practice, those dependencies typically only occur if the target is primitive. In these cases, the existing code should have refined the target in the `goal` already, and not introduced an equality. So when applying the `HEq` to the concrete goal in question, the assumed target equations for the targets that the motive depends on should be by `rfl`, and the other ones should be one of the equations provided by the splitter. So when rewriting, the `HEq` should actually be an equality, and we can use `heq.eq_of_heq.substr`. 
* If that does not work (the `HEq` did not turn into an `Eq`), we just don’t rewrite the motive.

**Comment by nomeata** [comment]
On branch `joachim/issue8195` I have a first experimental PoC that generates these `HEq` generalized rewriting lemmas:
```
/--
info: myTest.match_1.gen_eq_1.{u_1, u_2} {α : Type u_1} (motive : List α → Sort u_2) (x✝ : List α)
  (h_1 : (a : α) → (dc : List α) → x✝ = a :: dc → motive (a :: dc)) (h_2 : (x' : List α) → x✝ = x' → motive x') (a : α)
  (dc : List α) (h : x✝ = a :: dc) :
  HEq
    (match h : x✝ with
    | a :: dc => h_1 a dc h
    | x' => h_2 x' h)
    (h_1 a dc h)
-/
#guard_msgs in
#check myTest.match_1.gen_eq_1

/--
info: myTest.match_1.gen_eq_2.{u_1, u_2} {α : Type u_1} (motive : List α → Sort u_2) (x✝ : List α)
  (h_1 : (a : α) → (dc : List α) → x✝ = a :: dc → motive (a :: dc)) (h_2 : (x' : List α) → x✝ = x' → motive x')
  (x' : List α) (h : x✝ = x') :
  (∀ (a : α) (dc : List α), x' = a :: dc → False) →
    HEq
      (match h : x✝ with
      | a :: dc => h_1 a dc h
      | x' => h_2 x' h)
      (h_2 x' h)
-/
#guard_msgs in
#check myTest.match_1.gen_eq_2
```

So that’s a start. Let’s see if I can actually rewrite with them, but not today 🛌🏻

**Comment by Rob23oba** [comment]
I don't think `match` should use `gen_eq` lemmas, that should be a different concern. Instead, `Lean.Meta.Simp.simpMatchDiscrs?` should probably be more sophisticated to allow for more general congruence (see also [here](https://github.com/leanprover/lean4/blob/eb10318ed0221047e4b3f71ba968a7b4ec22ebcd/src/Std/Data/DTreeMap/Internal/Model.lean#L124) which came up as part of #8210) for a bad fix for this.
